US05026852
25 g (0.2 mol) of 3-ethoxy-2-ethyl-acrylonitrile were added over a period of 1 hour to a refluxing mixture of 15.6 g (0.26 mol) of urea and 15.7 g (0.23 mol) of sodium ethylate in 50 g of xylene, and the resulting mixture was heated for 3 additional hours at its boiling point. Thereafter, the ethanol in the reaction mixture was distilled off, and the residue was taken up in 120 g of water. The aqueous phase was separated and admixed with 13.8 g (0.23 mol) of acetic acid. The precipitated product was collected by suction filtration and recrystallized from water in the presence of activated charcoal. 18.4 g (66.3% of theory) of pure 5-ethyl-cytosine were obtained.

reactant | 3-ethoxy-2-ethyl-acrylonitrile | 0.2 mol, 25 g | C(C)OC=C(C#N)CC | C7H11NO
reactant | urea | 0.26 mol, 15.6 g | NC(=O)N | CH4N2O
reactant | sodium ethylate | 0.23 mol, 15.7 g | CC[O-].[Na+]
reactant | acetic acid | 0.23 mol, 13.8 g | C(C)(=O)O | C2H4O2
solvent | xylene | 50 g | C=1(C(=CC=CC1)C)C | C8H10
product | 5-ethyl-cytosine | 18.4 g, 66.3% | C(C)C=1C(=NC(NC1)=O)N | C6H9N3O
